US04006145
To a solution of 855 g of potassium hydroxide in 7 litres of water are added, at 50° C under argon, 420 g of thiophenol and the mixture is stirred for 15 minutes. There are then added thereto 22.1 g of copper powder and 1 kg of 2-iodo-5--methyl-benzoic acid and the mixture is heated for 7 hours under reflux. After cooling, the mixture is adjusted to pH 3 with 600 ml of concentrated hydrochloric acid and extracted with methylene chloride, washed with water, dried over sodium sulphate and concentrated to a thick crystal mash. This is filtered under suction, washed with cold ethanol and low--boiling petroleum ether and dried. Thee is obtained 3--methyl-6-(phenylthio)-benzoic acid of melting point 156°-157° C.

reactant | potassium hydroxide | 855 g | [OH-].[K+]
reactant | thiophenol | 420 g | C1(=CC=CC=C1)S | C6H6S
reactant | 2-iodo-5--methyl-benzoic acid | 1 kg | IC1=C(C(=O)O)C=C(C=C1)C | C8H7IO2
reactant | hydrochloric acid | 600 ml | Cl | ClH
solvent | water | 7 litres | O | H2O
catalyst | copper | 22.1 g | [Cu] | Cu
product | 3--methyl-6-(phenylthio)-benzoic acid | CC=1C=C(C(=O)O)C(=CC1)SC1=CC=CC=C1 | C14H12O2S
